US03976645
Reaction of acrylonitrile with -3-(m-anisyl)-3-hydroxyindolin-2-one by a process analogous to that of Example 1 gives 1-(2-cyanoethyl)-3-(m-anisyl)-3-hydroxy-indolin- 2-one. Hydrogenation of the 1-(2-cyanoethyl)- 3-(m-anisyl) 3-hydroxy-indolin-2-one by a procedure analogous to that of Example 2 gives 1-(3-aminopropyl)- 3-(m-anisyl)-3-hydroxy-indolin-2-one. Cyclodehydration of the 1-(3-aminopropyl)-3-(m-anisyl)-3-hydroxy-indolin- 2-one by a procedure analogous to that of Example 3 gives 10-(m-anisyl)-2,3,4,10-tetrahydro-pyrimido[1,2-a] indol 10-ol.

reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | 3-(m-anisyl)-3-hydroxyindolin-2-one | C(C1=CC(=CC=C1)OC)C1(C(NC2=CC=CC=C12)=O)O | C16H15NO3
product | 1-(2-cyanoethyl)-3-(m-anisyl)-3-hydroxy-indolin- 2-one | C(#N)CCN1C(C(C2=CC=CC=C12)(O)CC1=CC(=CC=C1)OC)=O | C19H18N2O3
